US09359381B2
4-Bromo-N-methoxy-N-methylbutanamide
4-Bromobutanoyl chloride (5.62 ml, 48.5 mmol) in DCM (64 ml) was added slowly to a solution of DIPEA (17.80 ml, 102 mmol) and N,O-dimethylhydroxylamine hydrochloride (4.97 g, 51.0 mmol) in DCM (32 ml) at 0° C. The mixture was stirred at room temperature for 16 hours then diluted with DCM (50 ml). The mixture was washed with 1M HCl(aq) (2×50 ml) and saturated NaHCO3(aq) (2×50 ml). The organic phase was passed through a hydrophobic frit and evaporated under vacuum. Purification by chromatography on silica, eluting with 30% EtOAc/hexane afforded the title compound.

reactant | 4-Bromobutanoyl chloride | 48.5 mmol, 5.62 ml | BrCCCC(=O)Cl | C4H6BrClO
reactant | DIPEA | 102 mmol, 17.80 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N,O-dimethylhydroxylamine hydrochloride | 51.0 mmol, 4.97 g | Cl.CNOC
solvent | DCM | 64 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 32 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-Bromo-N-methoxy-N-methylbutanamide | BrCCCC(=O)N(C)OC | C6H12BrNO2
